US08058293B2
(5S)-5-(hydroxymethyl)-1-methylpyrrolidin-2-one
To a solution of (S)-methyl 5-oxo-pyrrolidine-2-carboxylate (Aldrich, 2.86 g, 20 mmol) in tetrahydrofuran (50 mL) at 0° C. was added in portions 60% oil dispersion NaH (720 mg, 30 mmol). Methyl iodide (1.88 mL, 30 mmol) was added and the mixture was allowed to warm to ambient temperature and stirred for 16 h. The mixture was concentrated under reduced pressure and residue was partitioned between water and ethyl acetate. The organic layer was washed with water, brine, dried with anhydrous MgSO4, filtered, and concentrated under reduced pressure. The residue was redissolved in anhydrous tetrahydrofuran (50 mL), sodium borohydride (946 mg, 25 mmol) was added followed by dropwise addition (˜20 min) of methanol (20 mL) at 50° C. The reaction mixture was stirred for an additional 1 h at a range from 45° C. to 50° C., then cooled to room temperature and concentrated under reduced pressure. Citric acid (10%) was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water, brine, dried with anhydrous MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by chromatography (SiO2, ethyl acetate-ethanol 4:1) to afford 1.3 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 1.77 (m 1H), 1.95 (m, 1H), 2.18 (m, 2H), 2.69 (s, 3H), 3.43 (m, 2H), 3.55 (m, 1H), 4.77 (t, J=6 Hz, 1H); MS (DCI/NH3) m/z 130 (M+H)+, 147 (M+NH4)+.

reactant | (S)-methyl 5-oxo-pyrrolidine-2-carboxylate | 20 mmol, 2.86 g | O=C1CC[C@H](N1)C(=O)OC | C6H9NO3
reactant | NaH | 30 mmol, 720 mg | [H-].[Na+]
reactant | Methyl iodide | 30 mmol, 1.88 mL | CI | CH3I
reactant | sodium borohydride | 25 mmol, 946 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | (5S)-5-(hydroxymethyl)-1-methylpyrrolidin-2-one | 1.3 g | OC[C@@H]1CCC(N1C)=O | C6H11NO2
